US07592358B2
28.1c. {5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]thiophen-3-yl}-[2-(4-methylpiperidin-1-yl)ethyl]amine
The product was obtained analogously to Example 20.1a starting from 5-(4-chlorophenyl)-2-(4-iodothiophen-2-ylethynyl)pyridine and 2-(4-methylpiperidin-1-yl)ethylamine. Yield: 3 mg (1% of theoretical); C25H26ClN3S (M=436.013); calc.: molpeak (M+H)+: 436/438 (Cl); found: molpeak (M+H)+: 436/438 (Cl); HPLC-MS: 5.10 minutes (method B).

reactant | 5-(4-chlorophenyl)-2-(4-iodothiophen-2-ylethynyl)pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1SC=C(C1)I | C17H9ClINS
reactant | 2-(4-methylpiperidin-1-yl)ethylamine | CC1CCN(CC1)CCN | C8H18N2
product | {5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]thiophen-3-yl}-[2-(4-methylpiperidin-1-yl)ethyl]amine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=CS1)NCCN1CCC(CC1)C | C25H26ClN3S
